US09315490B2
1c) (1-(5-Bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone
Potassium tert-butoxide (9.75 g, 86.95 mmol, 1.5 eq) and 5-bromo-2-chloropyrimidine (11.21 g, 57.97 mmol, 1.0 eq) were added to (3-(methylthio)-1H-indol-6-yl)(morpholino)methanone (16.0 g, 57.97 mmol, 1.0 eq) in DMF (100 mL). The mixture was stirred at 120° C. for 16 h, then cooled to room temperature, diluted with ethyl acetate (100 mL), and filtered through a pad of celite. The filtrate was washed with water (2×100 mL) and brine (50 mL), and dried over sodium sulphate. The solvents were distilled off and the residue was purified by silica gel column chromatography [100-200 mesh; ethyl acetate/petrolether=1:1]. Yield: 8.0 g (32% over two steps).

reactant | Potassium tert-butoxide | 86.95 mmol, 9.75 g, 1.5 eq | CC(C)([O-])C.[K+]
reactant | 5-bromo-2-chloropyrimidine | 57.97 mmol, 11.21 g, 1.0 eq | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | (3-(methylthio)-1H-indol-6-yl)(morpholino)methanone | 57.97 mmol, 16.0 g, 1.0 eq | CSC1=CNC2=CC(=CC=C12)C(=O)N1CCOCC1 | C14H16N2O2S
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (1-(5-Bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)SC | C18H17BrN4O2S
